US09284321B2
To a stirred solution of 7-bromo-2-formyl-1H-indole-5-carbonitrile (0.17 g, 683 μmol) in MeOH (6.03 ml) was added sodium cyanide (167 mg, 3.41 mmol) and manganese dioxide (297 mg, 3.41 mmol) and the reaction mixture was allowed to stir for 17 h at room temperature. The mixture was evaporated, water (20 ml) was added and the mixture was extracted with ethyl acetate (2×15 ml). The combined organic layers were washed with brine, dried (MgSO4) and evaporated. The crude product (0.11 g) was further purified by flash chromatography on silica gel (heptane/ethyl acetate 0-20%) to yield methyl 7-bromo-5-cyano-1H-indole-2-carboxylate (0.105 g, 55%) as an orange solid, MS (ISN) m/z=279.3 [(M−H)+], mp 248° C.

reactant | 7-bromo-2-formyl-1H-indole-5-carbonitrile | 683 μmol, 0.17 g | BrC=1C=C(C=C2C=C(NC12)C=O)C#N | C10H5BrN2O
reactant | sodium cyanide | 3.41 mmol, 167 mg | [C-]#N.[Na+]
reactant | MeOH | 6.03 ml | CO | CH4O
catalyst | manganese dioxide | 3.41 mmol, 297 mg | [O-2].[O-2].[Mn+4]
product | methyl 7-bromo-5-cyano-1H-indole-2-carboxylate | 0.105 g, 55% | BrC=1C=C(C=C2C=C(NC12)C(=O)OC)C#N | C11H7BrN2O2
